US07709466B2
b) 4-(3-Bromo-1H-indol-2-yl)-6-(1H-pyrazol-4-yl)-2H-pyridazin-3-one
39 mg of 4-(1H-indol-2-yl)-6-(1H-pyrazol-4-yl)-2H-pyridazin-3-one is dissolved in dimethoxyethane and 28 mg of N-bromosuccinimide is added. The solution is stirred for 3 h at RT. The product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 11 mg. LC-MS (ES+) 355/357 (M+H)+.

reactant | 4-(1H-indol-2-yl)-6-(1H-pyrazol-4-yl)-2H-pyridazin-3-one | 39 mg | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C=1C=NNC1)=O | C15H11N5O
reactant | N-bromosuccinimide | 28 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 4-(3-Bromo-1H-indol-2-yl)-6-(1H-pyrazol-4-yl)-2H-pyridazin-3-one | BrC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C=1C=NNC1)=O | C15H10BrN5O
